US06310217B1
A. Ethyl (E)-4-[(2,4-dimethyl-3-octadecanoylpyrrol-1-yl)methyl]cinnamate
Preparation as in Example 2C with 362 mg (1 mmol) of 2,4-dimethyl-3-octadecanoylpyrrole (Lehr M., WO95/13266) in place of 3-dodecanoyl-2,4-dimethylpyrrole and with ethyl (E)-4-(bromomethyl)-cinnamate in place of ethyl (E)-3-(bromo-methyl)cinnamate.

reactant | 2,4-dimethyl-3-octadecanoylpyrrole | 1 mmol, 362 mg | CC=1NC=C(C1C(CCCCCCCCCCCCCCCCC)=O)C | C24H43NO
reactant | ethyl (E)-4-(bromomethyl)-cinnamate | BrCC1=CC=C(/C=C/C(=O)OCC)C=C1 | C12H13BrO2
product | Ethyl (E)-4-[(2,4-dimethyl-3-octadecanoylpyrrol-1-yl)methyl]cinnamate | CC=1N(C=C(C1C(CCCCCCCCCCCCCCCCC)=O)C)CC1=CC=C(/C=C/C(=O)OCC)C=C1 | C36H55NO3
